US04640703
110.7 g (0.415 mole) of 4-(5-chloro-3-nitropyridin-2-yloxy)phenol are dissolved in 1200 ml of dioxan and, after addition of 22.0 g of Raney nickel catalyst, hydrogenated with hydrogen at 20°-25° C. The catalyst is then removed by filtration, the solution is concentrated and the residue is stirred in hexane and the product is filtered and dried, affording 96.0 g (98% of theory) of 4-(3-amino-5-chloropyridin-2-yloxy)phenol with a melting point of 174° C.

reactant | 4-(5-chloro-3-nitropyridin-2-yloxy)phenol | 0.415 mole, 110.7 g | ClC=1C=C(C(=NC1)OC1=CC=C(C=C1)O)[N+](=O)[O-] | C11H7ClN2O4
reactant | hydrogen | [H][H] | H2
solvent | dioxan | 1200 ml | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | 22.0 g | [Ni] | Ni
product | 4-(3-amino-5-chloropyridin-2-yloxy)phenol | 96.0 g, 98% | NC=1C(=NC=C(C1)Cl)OC1=CC=C(C=C1)O | C11H9ClN2O2
